US08809333B2
To a solution of ethyl (2R)-2-methyl-2-(methylsulfonyl)-4-[4-(quinoxalin-2-yl)-1H-pyrazol-1-yl]butanoate (0.078 g, 0.19 mmol) in THF-H2O (20 mL:10 mL) was added LiOH (0.047 g, 1.94 mmol, 10 eq). The mixture was allowed to stir at room temperature overnight. The mixture was acidified with 1M HCl and extracted with ethyl acetate. The organic layers were combined, dried over sodium sulfate, filtered, and concentrated to give (2R)-2-methyl-2-(methylsulfonyl)-4-[4-(quinoxalin-2-yl)-1H-pyrazol-1-yl]butanoic acid (0.072 g, 99% yield) as a white solid. LC-MS M+H+375.1.

reactant | ethyl (2R)-2-methyl-2-(methylsulfonyl)-4-[4-(quinoxalin-2-yl)-1H-pyrazol-1-yl]butanoate | 0.19 mmol, 0.078 g | C[C@](C(=O)OCC)(CCN1N=CC(=C1)C1=NC2=CC=CC=C2N=C1)S(=O)(=O)C | C19H22N4O4S
reactant | LiOH | 1.94 mmol, 0.047 g, 10 eq | [Li+].[OH-]
reactant | HCl | 1M | Cl | ClH
solvent | THF H2O | 20 mL | C1CCOC1.O
product | (2R)-2-methyl-2-(methylsulfonyl)-4-[4-(quinoxalin-2-yl)-1H-pyrazol-1-yl]butanoic acid | 0.072 g, 99% yield | C[C@](C(=O)O)(CCN1N=CC(=C1)C1=NC2=CC=CC=C2N=C1)S(=O)(=O)C | C17H18N4O4S
